US07253192B2
B] 2-(2,5-Dichloro-4-hydroxy-phenoxy)-2-methyl-propionic acid methyl ester
To an ice cold solution of 500 mg (1.3 mmol) benzoic acid 2,5-dichloro-4-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl ester in 11.5 ml methanol was added a solution of 145 mg (6.3 mmol) sodium in 11.5 ml methanol within 5 min under an argon atmosphere. The solution was stirred for 4 h at ambient temperature, cooled to 0° C. and carefully neutralized with 1 N HCl. The solvent was removed under reduced pressure and the residue was dissolved in ethyl acetate and brine/ice water 1/1. The layers were separated and the aqueous layer was extracted two times with ethyl acetate. The combined organic layers were washed with brine/ice water 1/1 and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography (silica gel, heptane/AcOEt) to give 219 mg (0.8 mmol, 62%) of the title compound as colorless oil.

reactant | benzoic acid 2,5-dichloro-4-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl ester | 1.3 mmol, 500 mg | ClC1=C(C=C(C(=C1)OC(C)(C)C(=O)OCC)Cl)OC(C1=CC=CC=C1)=O | C19H18Cl2O5
reactant | sodium | 6.3 mmol, 145 mg | [Na] | Na
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 11.5 ml | CO | CH4O
solvent | methanol | 11.5 ml | CO | CH4O
product | 2-(2,5-Dichloro-4-hydroxy-phenoxy)-2-methyl-propionic acid methyl ester | 0.8 mmol, 219 mg, 62% | COC(C(C)(C)OC1=C(C=C(C(=C1)Cl)O)Cl)=O | C11H12Cl2O4
